US09029528B2
(1) Synthesis of 2,4-bis(docosyloxy)benzaldehyde
Under an argon atmosphere, 2,4-dihydroxybenzaldehyde (3.00 g, 21.7 mmol), potassium carbonate (30.0 g, 217 mmol) and 1-bromodocosane (17.3 g, 44.5 mmol) were added to dehydrating N,N-dimethylformamide (150 mL), and the mixture was stirred at 70° C. overnight. After completion of the reaction, the reaction mixture was poured into purified water (1 L), the mixture was stirred for 1 hr, and the precipitated solid was collected by filtration. The obtained solid was slurry-washed in methanol and filtered, and the obtained solid was dried under reduced pressure to give the title compound (16.3 g, 99.3%) as a white solid.

reactant | 2,4-dihydroxybenzaldehyde | 21.7 mmol, 3.00 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | potassium carbonate | 217 mmol, 30.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromodocosane | 44.5 mmol, 17.3 g | BrCCCCCCCCCCCCCCCCCCCCCC | C22H45Br
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 2,4-bis(docosyloxy)benzaldehyde | 16.3 g, 99.3% | C(CCCCCCCCCCCCCCCCCCCCC)OC1=C(C=O)C=CC(=C1)OCCCCCCCCCCCCCCCCCCCCCC | C51H94O3
